US08455646B2
Preparation of 2-({[(R)-(1-aza-bicyclo[2.2.2]oct-3-yl)oxycarbonyl]-phenyl-methyl}-amino)-benzoic acid methyl ester (C35)
N-ethyl-N-isopropylpropan-2-amine 2-(2-(methoxycarbonyl)phenylamino)-2-phenylacetate (I34) (611 mg, 1.47 mmol), 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate (V) (559 mg, 1.47 mmol), and HOBT (226 mg, 1.47 mmol) are dissolved in THF (7 mL) and MeCN (3 mL). (R)-Quinuclidin-3-ol (375 mg, 2.95 mmol) is added and the mixture is stirred at RT for 1 hour. Solvents are evaporated, the residue is dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer is recovered, dried over Na2SO4, filtered and evaporated. The crude is purified by preparative HPLC and the collected fractions are evaporated, the residue is dissolved in EtOAc and washed with NaHCO3 and brine. The organic layer is recovered, dried over Na2SO4, filtered and evaporated to afford compound the title compound as a colorless compound (95 mg, 16% yield, mixture of diastereoisomers).

reactant | N-ethyl-N-isopropylpropan-2-amine 2-(2-(methoxycarbonyl)phenylamino)-2-phenylacetate | 1.47 mmol, 611 mg | COC(=O)C1=C(C=CC=C1)NC(C(=O)O)C1=CC=CC=C1.C(C)N(C(C)C)C(C)C
reactant | HOBT | 1.47 mmol, 226 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-Quinuclidin-3-ol | 2.95 mmol, 375 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 2-({[(R)-(1-aza-bicyclo[2.2.2]oct-3-yl)oxycarbonyl]-phenyl-methyl}-amino)-benzoic acid methyl ester | 16% yield | COC(C1=C(C=CC=C1)NC(C1=CC=CC=C1)C(=O)O[C@H]1CN2CCC1CC2)=O | C23H26N2O4
